datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19])([H:8])[H:9],33.3465
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19](=[C:20]([H:22])[H:23])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:19](=[C:20]([H:22])[H:23])[H:21])[H:9])([H:7])[H:8],2.84512
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])([H:27])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:19]([C:18]([H:27])([H:28])[H:29])([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])[H:10],32.9281
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[H:10]>>[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5][H:9])[H:7])[H:6].[H:8][H:10],38.66016
[C:0](=[S:1])([H:2])[H:3].[C:4]([S:5])([H:6])([H:7])[H:8]>>[C:0]([S:1])([H:2])([H:3])[S:5][C:4]([H:6])([H:7])[H:8],-3.7656
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([O:5][O:6][H:17])[H:11])[H:10])([H:7])([H:8])[H:9].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([O:5][O:6][H:17])[H:11])([H:10])[O:18][O:19])([H:7])([H:8])[H:9],-2.244716
[C:0](#[C:1][C:2]([C:3]#[C:4][H:9])=[C:5]([C:6](=[C:7]([H:12])[H:13])[H:11])[H:10])[H:8].[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:9])[C:5]([C:6](=[C:7]([H:12])[H:13])[H:11])([H:10])[H:14])[H:8],3.01248
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([O:7][O:8][H:19])([H:15])[C:4]([H:16])([H:17])[O:5]1)([H:9])([H:10])[H:11].[O:6][H:18],37.656
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11]([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:11]([C:10]([H:18])([H:19])[H:20])([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])[H:6],35.6477
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27],51.0281
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][O:8],19.874
[C:0](=[N:1][N:2]([H:5])[H:6])([H:3])[H:4].[O:7][O:8][H:9]>>[C:0](=[N:1][N:2][H:6])([H:3])[H:4].[H:5][O:7][O:8][H:9],52.8439
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])[H:31])([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25](=[C:24]([H:29])[H:30])[H:31])([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])[H:12],47.9905
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([C:7]([H:16])([H:17])[H:18])([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24],5.8576
[C:0]([C:1]([C:2](=[S:3])[H:8])[H:7])([H:4])([H:5])[H:6].[S:9]([C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])([H:18])[H:19])[H:17]>>[C:0]([C:1]([C:2](=[S:3])[H:8])([H:7])[H:18])([H:4])([H:5])[H:6].[S:9]([C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])[H:19])[H:17],45.1872
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])=[C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])([H:19])[H:20])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([C:7]([H:21])([H:22])[H:23])[C:8]1([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:13])([H:11])[H:12],106.19
